US05219860
A solution of spiro[indene-1,4'-piperidine]hydrochloride (1.9 g, 8.6 mmol) in ethanol (50 ml) was hydrogenated at 50 p.s.i. for 1 hour, in the present of 10% palladium on carbon (0.3 g, 16% (w/w)). The catalyst was filtered off, and the ethanol removed in vacuo. The remaining solid was recrystallised from 4:1 ethyl acetate:ethanol to give spiro[indane-1,4'-piperidine] hydrochloride (814 mg, 43%) as a white crystalline solid. N.M.R. (D2O)δ 1.79 (2H, d, J=14 Hz), 2.06 (2H, t of d, J=14 and 4 Hz), 2.14 (2H, t, J=7 Hz), 2.98 (2H, t, j=7 Hz), 3.25 (2H, t of d, J=14 and 2 Hz), 3.48 (2H, m), 7.33 (4H, m)

reactant | spiro[indene-1,4'-piperidine]hydrochloride | 8.6 mmol, 1.9 g | Cl.N1CCC2(CC1)C=CC1=CC=CC=C12
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | spiro[indane-1,4'-piperidine] hydrochloride | 814 mg, 43% | Cl.N1CCC2(CC1)CCC1=CC=CC=C12 | InChI=1S/C13H17N.ClH/c1-2-4-12-11(3-1)5-6-13(12)7-9-14-10-8-13;/h1-4,14H,5-10H2;1H
